US07291631B2
To a mixture of AlCl3 (2.173 g, 16.3 mmol) in benzene (20 mL) was added a solution of 2-(2-methyl-pyridin-3-yl)-propan-2-ol (0.455 g, 3.00 mmol) in benzene (10 mL) and the resultant mixture was stirred at room temperature overnight. The mixture was poured onto ice (200 mL), diluted with EtOAc (200 mL), and neutralized with 10 N NaOH (4 mL). The phases were separated and the organic phase was washed with brine (3×25 mL), dried (MgSO4), and concentrated. Purification of the crude material by column chromatography on silica gel (20:1 CH2Cl2-MeOH) provided 0.479 g (75%) of 2-methyl-3-(1-methyl-1-phenyl-ethyl)-pyridine as a colorless oil. 1H NMR (CDCl3) δ 1.68 (s, 6H), 2.01 (s, 3H), 7.11-7.20 (m, 4H), 7.24-7.30 (m, 2H), 7.86 (dd, 1H, J=8.1, 1.5 Hz), 8.39 (dd, 1H, J=4.8, 1.5 Hz).

reactant | AlCl3 | 16.3 mmol, 2.173 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2-(2-methyl-pyridin-3-yl)-propan-2-ol | 3.00 mmol, 0.455 g | CC1=NC=CC=C1C(C)(C)O | C9H13NO
reactant | NaOH | 10 N, 4 mL | [OH-].[Na+]
reactant | benzene | 20 mL | C1=CC=CC=C1 | C6H6
reactant | benzene | 10 mL | C1=CC=CC=C1 | C6H6
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 2-methyl-3-(1-methyl-1-phenyl-ethyl)-pyridine | 0.479 g, 75% | CC1=NC=CC=C1C(C)(C1=CC=CC=C1)C | C15H17N
